US03953415
9.13 g. (26 mmoles) of Z-Asn-Gly-OtBu are dissolved in 90 ml. of trifluoroacetic acid, and after 0.5 hours of standing 450 ml. of dry ether are added to the solution. The separated white precipitate is filtered off, washed with ether and crystallized from 35 ml. of water. 6.56 g. (78 %) of Z-Asn-Gly-OH are obtained. M.p.: 170°-172° C, Rf4 = 0.45.

reactant | Z-Asn-Gly-OtBu | 26 mmoles | N([C@@H](CC(N)=O)C(=O)NCC(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C18H25N3O6
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | ether | CCOCC | C4H10O
product | Z-Asn-Gly-OH | 78 % | N([C@@H](CC(N)=O)C(=O)NCC(=O)O)C(=O)OCC1=CC=CC=C1 | C14H17N3O6
